US07119120B2
5-Bromo-2-(4-trifluoromethoxy-benzenesulfonylamino)-benzoic acid
Methyl 5-bromo-2-(4-trifluoromethoxy-benzenesulfonylamino)benzoate (0.854 g, 0.019 mmol) was dissolved in a mixture of tetrahydrofuran (20 mL)/water (10 mL). A solution of sodium hydroxide (50%, 5 mL) was added and the mixture was heated to reflux for 2–3 hours. The tetrahydrofuran was removed by rotary evaporation and the mixture was acidified with aqueous HCl (2 M). The mixture was extracted with ethyl acetate (20 mL). The organic solvent was removed to dryness. The residue was dried azeotropically by dissolution in ethyl acetate followed by evaporation (3×15 mL). This provided an oil, which was triturated in hexane (20 mL) until a solid formed. The solid was collected by filtration and dried in a vacuum oven at 40° C. Recovery=0.691 g (83% yield). M/Z of (M−H)−=432, 1H NMR (DMSO) δ=7.42–7.48 (1H), 7.55–7.6 (2H), 7.74–7.8 (1H), 7.92–8.0 (3H), 11,2 (br, 1H).

reactant | Methyl 5-bromo-2-(4-trifluoromethoxy-benzenesulfonylamino)benzoate | 0.019 mmol, 0.854 g | BrC=1C=CC(=C(C(=O)OC)C1)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C15H11BrF3NO5S
reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 5-Bromo-2-(4-trifluoromethoxy-benzenesulfonylamino)-benzoic acid | 83% yield | BrC=1C=CC(=C(C(=O)O)C1)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C14H9BrF3NO5S
